US08278343B2
Preparation 59: 3-[5-(4-Chloro-phenyl)-pyrazin-2-yloxymethyl]-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 5-(4-chloro-phenyl)-pyrazin-2-ol (Preparation 25) and 3-iodomethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 14) to afford the racemate as a white solid (44 mg, 22%)

reactant | 5-(4-chloro-phenyl)-pyrazin-2-ol | ClC1=CC=C(C=C1)C=1N=CC(=NC1)O | C10H7ClN2O
reactant | 3-iodomethyl-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CI | C16H20INO4
product | 3-[5-(4-Chloro-phenyl)-pyrazin-2-yloxymethyl]-1-(4-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)COC1=NC=C(N=C1)C1=CC=C(C=C1)Cl | C26H26ClN3O5
